US07662825B2
2,3-Dichloro-N-[5-methyl-3-(3-pyridazinylmethoxy)-2-pyrazinyl]benzenesulphonamide
Prepared by the method of Example 20 using pyridazine-3-methanol (0.1 g) and N-(3-bromo-5-methyl-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide (0.15 g). Yield 0.038 g.

reactant | pyridazine-3-methanol | 0.1 g | N1=NC(=CC=C1)CO | C5H6N2O
reactant | N-(3-bromo-5-methyl-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide | 0.15 g | BrC=1C(=NC=C(N1)C)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl | C11H8BrCl2N3O2S
product | 2,3-Dichloro-N-[5-methyl-3-(3-pyridazinylmethoxy)-2-pyrazinyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1OCC=1N=NC=CC1)C | C16H13Cl2N5O3S
